US05629264
A mixture of 6.58 g (30.6 mmol) of 6-ethyl-5-methyl-4-hydroxy-2-phenyl-3,4,5,6-tetrahydropyrimidine and 300 mL of acetone was warmed to 35° C. for 1 hour to help dissolve the tetrahydropyrimidine. A cloudy solution resulted. The solution was cooled to 10° C. and 14.0 g (25.3 mmol) of potassium permanganate was added, in batches. The mixture was stirred at room temperature for 20 hours then 50 mL of absolute ethanol was added and the reaction mixture was stirred for an additional 1.25 hours. The reaction mixture was gravity filtered and the filtrate was concentrated. Ether was added to the residue and the solution was filtered again. Concentration of the filtrate left 6.0 g of a sticky white solid behind. The crude product was purified by passing through a 4 inch plug of silica gel washing with 500 mL of 40% tetrahydrofuran/60% hexane. The eluate was concentrated to yield 3.98 g (62%) 6-ethyl-5-methyl-2-phenyl-5,6-dihydropyrimidin-4-one, as a white solid.

reactant | 6-ethyl-5-methyl-4-hydroxy-2-phenyl-3,4,5,6-tetrahydropyrimidine | 30.6 mmol, 6.58 g | C(C)C1C(C(NC(=N1)C1=CC=CC=C1)O)C | C13H18N2O
reactant | acetone | 300 mL | CC(=O)C | C3H6O
reactant | tetrahydropyrimidine | N1CNCC=C1 | C4H8N2
reactant | potassium permanganate | 25.3 mmol, 14.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-ethyl-5-methyl-2-phenyl-5,6-dihydropyrimidin-4-one | 3.98 g, 62% | C(C)C1C(C(N=C(N1)C1=CC=CC=C1)=O)C | C13H16N2O
